US07964645B2
Preparation of N-[(Benzhydryl-methyl-carbamoyl)-methyl]-3-phenyl-propionamide
A solution of 2.0 mmol N-(diphenylmethyl)methylamine, 2.0 mmol (3-phenyl-propionylamino)-acetic acid (CA [56613-60-6]) and 6.0 mmol DIPEA in 10 ml of acetonitrile was treated with 2.2 mmol of TBTU. After 2 hours at room temperature, the reaction mixture was concentrated, diluted with water and extracted 3 times with ethyl acetate. The organic phase was dried and the residue purified by chromatography (SiO2; dichloromethane/methanol) to give the title compound as a slightly yellowish solid.

reactant | N-(diphenylmethyl)methylamine | 2.0 mmol | C1(=CC=CC=C1)C(NC)C1=CC=CC=C1 | C14H15N
reactant | (3-phenyl-propionylamino)-acetic acid | 2.0 mmol | C1(=CC=CC=C1)CCC(=O)NCC(=O)O | C11H13NO3
reactant | DIPEA | 6.0 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 2.2 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[(Benzhydryl-methyl-carbamoyl)-methyl]-3-phenyl-propionamide | Yield=46% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N(C(=O)CNC(CCC1=CC=CC=C1)=O)C | C25H26N2O2
